US08217063B2
4-[(4E)-3-[2-(4-Carboxyphenyl)ethyl]-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}pent-4-en-1-yl]benzoic acid
18.5 mg (0.75 mmol) of lithium hydroxide are added to a solution of 150 mg (0.26 mmol) of methyl 4-[(4E)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]-phenyl}pent-4-en-1-yl]benzoate in 10 ml of THF and 10 ml of water, and the mixture is stirred at 50° C. for 12 h. The mixture is then adjusted to pH 2 using 1 M hydrochloric acid and concentrated. The residue obtained is purified directly by preparative HPLC. This gives 104 mg (content 97%, 0.18 mmol, 71% of theory) of the title compound.

reactant | lithium hydroxide | 0.75 mmol, 18.5 mg | [OH-].[Li+]
reactant | methyl 4-[(4E)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]-phenyl}pent-4-en-1-yl]benzoate | 0.26 mmol, 150 mg | COC(=O)C1=CC=C(C=C1)CCC(CCC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OCCCN1C(CCC1)=O | C36H41NO6
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-[(4E)-3-[2-(4-Carboxyphenyl)ethyl]-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}pent-4-en-1-yl]benzoic acid | C(=O)(O)C1=CC=C(C=C1)CCC(CCC1=CC=C(C(=O)O)C=C1)\C=C\C1=C(C=CC=C1)OCCCN1C(CCC1)=O | C34H37NO6
